US08614201B2
Intermediate 12: C-[2-Pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-methylamine
To a solution of 2-[2-pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione (0.1 g, 0.217 mmol) in ethanol (5 mL) was added hydrazine mono-hydrate (14 μl, 0.434 mmol) at rt. The resulting mixture was heated to 90° C. for 12 h then cooled to rt. The resulting mixture was concentrated and taken on crude to the next step. MS (ESI): mass calcd. for C17H13F3N4, 330.1; m/z found, 331.2 [M+H]+.

reactant | 2-[2-pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione | 0.217 mmol, 0.1 g | N1=CC(=CC=C1)C1=NC(=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C25H15F3N4O2
reactant | hydrazine mono-hydrate | 0.434 mmol, 14 μl | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | C-[2-Pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-methylamine | N1=CC(=CC=C1)C1=NC(=CC(=N1)CN)C1=CC=C(C=C1)C(F)(F)F | C17H13F3N4
